US05840981
DE-A-33 38 681 discloses the catalytic hydrogenation of veratryl cyanide with a ten-fold molar excess of methylamine on a nickel catalyst. Homoveratrylamine is obtained as byproduct with more than 3% selectivity and has to be removed by adding benzaldehyde.

reactant | veratryl cyanide | C(C1=CC(OC)=C(OC)C=C1)C#N | C10H11NO2
reactant | methylamine | CN | CH5N
catalyst | nickel | [Ni] | Ni
product | Homoveratrylamine | C(CC1=CC(OC)=C(OC)C=C1)N | C10H15NO2
